US07563805B2
tert-Butyl 1-(1,2-diamino-1-methylethyl)-1-cyclopropane carboxylate
To a solution (50 mL) of tert-butyl 1-(1-amino-1-cyanoethyl)-1-cyclopropanecarboxylate (1.12 g, 5.30 mmol) in ethanol was added a suspension (30 mL) of Raney nickel catalyst (R-100 manufactured by Nikko Rica Corporation, 10 mL) in ethanol, and the suspension was vigorously stirred at room temperature for 6 hours in hydrogen gas atmosphere. The catalyst was removed by filtration through celite, and the solvent was removed by distillation under reduced pressure to obtain 0.84 g (3.92 mmol, 74%) of the crude target compound as a colorless transparent oil. The thus obtained crude product was used in the subsequent reaction with no further purification.

reactant | tert-butyl 1-(1-amino-1-cyanoethyl)-1-cyclopropanecarboxylate | 5.30 mmol, 50 mL, 1.12 g | NC(C)(C#N)C1(CC1)C(=O)OC(C)(C)C | C11H18N2O2
solvent | ethanol | C(C)O | C2H6O
catalyst | Raney nickel | 30 mL | [Ni] | Ni
solvent | hydrogen | [H][H] | H2
product | tert-Butyl 1-(1,2-diamino-1-methylethyl)-1-cyclopropane carboxylate | NC(CN)(C)C1(CC1)C(=O)OC(C)(C)C | C11H22N2O2
